US07011838B2
Using 0.49 g of 3-metyl-4-nitrobenzyl methanesulfonate, 5 ml of N,N-dimethylformamide, 0.10 g of sodium hydride (60% in oil), and 0.3 g of (3,3,3-trifluoropropyl)malononitrile, and according to the process described in the Production Example 26, there was obtained 0.51 g of 2-(3-methyl-4-nitrobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (45)).

reactant | 3-metyl-4-nitrobenzyl methanesulfonate | 0.49 g | CS(=O)(=O)OCC1=CC(=C(C=C1)[N+](=O)[O-])C | C9H11NO5S
reactant | sodium hydride | 0.10 g | [H-].[Na+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 0.3 g | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-(3-methyl-4-nitrobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 0.51 g, Yield: 82% | CC=1C=C(CC(C#N)(C#N)CCC(F)(F)F)C=CC1[N+](=O)[O-] | C14H12F3N3O2
